US08119686B2
(i) Synthesis of bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclobutane
To a solution of 2,6-di-t-butyl-4-mercaptophenol (2.00 g, 8.30 mmol) in methanol (10 mL) was added cyclobutanone (294 mg, 4.20 mmol) and a catalytic amount of concentrated hydrochloric acid. The mixture was heated under reflux for 6 hours. The solvent was distilled off from the mixture. The resulting residue was purified by a flash column chromatography to synthesize bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclobutane.

reactant | 2,6-di-t-butyl-4-mercaptophenol | 8.30 mmol, 2.00 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | cyclobutanone | 4.20 mmol, 294 mg | C1(CCC1)=O | C4H6O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclobutane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1(CCC1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C32H48O2S2
